US05807958
Hexenyl succinic acid dipotassium salt
Into a glass flask there were charged 16 grams of potasium hydroxide, 41.5 grams of ethyleneglycol and 25.5 grams of hexenyl succinic anhydride. The mixture was stirred for two hours at 100° C. Yield: 78.9 grams=98.0% of theoretical. The catalyst solution thus obtained is hygroscopic.

reactant | potasium hydroxide | 16 grams | [OH-].[K+]
reactant | hexenyl succinic anhydride | 25.5 grams | C(=CCCCC)C1C(=O)OC(C1)=O | C10H14O3
solvent | ethyleneglycol | 41.5 grams | C(CO)O | C2H6O2
product | Hexenyl succinic acid dipotassium salt | [K+].[K+].C(=CCCCC)C(C(=O)[O-])CC(=O)[O-] | InChI=1S/C10H16O4.2K/c1-2-3-4-5-6-8(10(13)14)7-9(11)12;;/h5-6,8H,2-4,7H2,1H3,(H,11,12)(H,13,14);;/q;2*+1/p-2
